US09145354B2
Step 1 To a solution of diisopropylamine (2.94 mL, 20.8 mmol) in THF (20 mL) under nitrogen at 0° C. was added nBuLi (2.5M in hexanes, 8.32 mL, 20.8 mmol, 1 eq.) and the solution stirred at 0° C. for 30 min. The solution was cooled to −78° C. and then a solution of isobutylisobutyrate (3.49 mL, 20.8 mmol) in THF (6 mL) was added dropwise and then the reaction stirred at −78° C. for 1 h. TMS-Cl (3.19 mL, 25 mmol) was then added dropwise and the reaction allowed to warm to room temperature over 3 h. The reaction was quenched with ice-water (20 mL) and EtOAc (20 mL) was added. The organic phase was washed with water (10 mL) and then brine (10 mL) before it was dried (MgSO4), filtered and concentrated to give (1-isobutoxy-2-methyl-propenyloxy)-trimethyl-silane (3.5 g) used crude in the next reaction.

reactant | diisopropylamine | 20.8 mmol, 2.94 mL | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 20.8 mmol, 2.5M, 8.32 mL, 1 eq. | [Li]CCCC
reactant | isobutylisobutyrate | 20.8 mmol, 3.49 mL | C(C(C)C)OC(C(C)C)=O | C8H16O2
reactant | TMS-Cl | 25 mmol, 3.19 mL | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (1-isobutoxy-2-methyl-propenyloxy)-trimethyl-silane | 3.5 g | C(C(C)C)OC(=C(C)C)O[Si](C)(C)C | C11H24O2Si
